* SPICE export by:      S-Edit 2022.2.3
* Export time:          Wed Dec  6 20:23:35 2023
* Design path:          /eda/Mentor/Tanner/TannerTools_v2022.2/Tutorials/prooog/lib.defs
* Library:              prooog
* Cell:                 falladderdd
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt cmos_nand A B out_nand Gnd Vdd 
* Library name: prooog
* Cell name: cmos_nand
* View name: schematic
* PORT=A TYPE=In
* PORT=B TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=out_nand TYPE=Out

MMn1 N_1 B Gnd Gnd NMOS25 w=2u l=250n m=1 ad=1.3p pd=5.3u as=1.3p ps=5.3u nrd=325m nrs=325m mult=1 delvto=0 mulu0=1 $ $x=4400 $y=3200 $w=400 $h=600
MMn2 out_nand A N_1 Gnd NMOS25 w=2u l=250n m=1 ad=1.3p pd=5.3u as=1.3p ps=5.3u nrd=325m nrs=325m mult=1 delvto=0 mulu0=1 $ $x=4400 $y=4000 $w=400 $h=600
MMp1 out_nand A Vdd Vdd PMOS25 w=2u l=250n m=1 ad=1.3p pd=5.3u as=1.3p ps=5.3u nrd=325m nrs=325m mult=1 delvto=0 mulu0=1 $ $x=3900 $y=4900 $w=400 $h=600
MMp2 out_nand B Vdd Vdd PMOS25 w=2u l=250n m=1 ad=1.3p pd=5.3u as=1.3p ps=5.3u nrd=325m nrs=325m mult=1 delvto=0 mulu0=1 $ $x=4900 $y=4900 $w=400 $h=600
.ends

.subckt inverter In Out Gnd Vdd 
* Library name: prooog
* Cell name: inverter
* View name: schematic
* PORT=Out TYPE=Out
* PORT=In TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other

MMn1 Out In Gnd Gnd NMOS25 w=1u l=250n m=1 ad=650f pd=3.3u as=650f ps=3.3u nrd=650m nrs=650m mult=1 delvto=0 mulu0=1 $ $x=4300 $y=3300 $w=400 $h=600
MMp1 Out In Vdd Vdd PMOS25 w=2u l=250n m=1 ad=1.3p pd=5.3u as=1.3p ps=5.3u nrd=325m nrs=325m mult=1 delvto=0 mulu0=1 $ $x=4300 $y=4300 $w=400 $h=600
.ends

.subckt DPL_xor A B out_xor Gnd Vdd 
* Library name: prooog
* Cell name: DPL_xor
* View name: schematic
* PORT=out_xor TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=A TYPE=In
* PORT=B TYPE=In
* PORT=Gnd TYPE=Other

Xinverter_1 B N_1 Gnd Vdd inverter $ $x=750 $y=1800 $w=900 $h=1800 $r=270
Xinverter_2 A N_2 Gnd Vdd inverter $ $x=650 $y=5700 $w=900 $h=1800 $r=90
MMn1 out_xor N_2 B Gnd NMOS25 w=500n l=250n m=1 ad=325f pd=2.3u as=325f ps=2.3u nrd=1.3 nrs=1.3 mult=1 delvto=0 mulu0=1 $ $x=3700 $y=3900 $w=600 $h=400 $r=90
MMn2 out_xor A N_1 Gnd NMOS25 w=500n l=250n m=1 ad=325f pd=2.3u as=325f ps=2.3u nrd=1.3 nrs=1.3 mult=1 delvto=0 mulu0=1 $ $x=3700 $y=6400 $w=600 $h=400 $r=90
MMp1 N_2 N_1 out_xor Vdd PMOS25 w=500n l=250n m=1 ad=325f pd=2.3u as=325f ps=2.3u nrd=1.3 nrs=1.3 mult=1 delvto=0 mulu0=1 $ $x=3700 $y=2300 $w=600 $h=400 $r=270 $m
MMp2 A B out_xor Vdd PMOS25 w=500n l=250n m=1 ad=325f pd=2.3u as=325f ps=2.3u nrd=1.3 nrs=1.3 mult=1 delvto=0 mulu0=1 $ $x=3700 $y=4900 $w=600 $h=400 $r=270 $m
.ends

.subckt falladderdd A B cin cout sum Gnd Vdd 
* Library name: prooog
* Cell name: falladderdd
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=A TYPE=In
* PORT=B TYPE=In
* PORT=cout TYPE=Out
* PORT=cin TYPE=In
* PORT=sum TYPE=Out

Xcmos_nand_1 cin N_1 N_2 Gnd Vdd cmos_nand $ $x=5500 $y=3800 $w=1800 $h=1000
Xcmos_nand_2 A B N_3 Gnd Vdd cmos_nand $ $x=5700 $y=2200 $w=1800 $h=1000
Xcmos_nand_3 N_2 N_3 cout Gnd Vdd cmos_nand $ $x=8000 $y=3000 $w=1800 $h=1000
XDPL_xor_1 A B N_1 Gnd Vdd DPL_xor $ $x=1500 $y=5600 $w=1800 $h=1000
XDPL_xor_2 N_1 cin sum Gnd Vdd DPL_xor $ $x=4100 $y=5600 $w=1800 $h=1000
.ends



